US06569860B2
To a solution of ethyl-3-aminopyridine-4-carboxylate hydrochloride (1.0 g, 4.93 mmol) and pyridine (1.2 ml, 14.8 mmol) in toluene (10 ml) at room temperature under argon was added 20% phosgene in toluene (3.7 ml, 7.15 mmol) and the mixture was heated at 90° C. for 1 h. The mixture was filtered, and the filtrate was concentrated to dryness. The crude material was dissolved in toluene (10 ml), (5-phenyl-benzofuran-2-yl)-methanol (0.922 g, 4.11 mmol) and DMAP (0.05 g, 0.411 mmol) were added and the mixture was heated at 90° C. for 18 h. The solvent was evaporated to dryness. Purification by chromatography gave 0.538 g of 3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-isonicotinic acid ethyl ester as a white solid.

reactant | ethyl-3-aminopyridine-4-carboxylate hydrochloride | 4.93 mmol, 1.0 g | Cl.C(C)OC(=O)C1=C(C=NC=C1)N
reactant | pyridine | 14.8 mmol, 1.2 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | (5-phenyl-benzofuran-2-yl)-methanol | 4.11 mmol, 0.922 g | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C15H12O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 0.411 mmol, 0.05 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 7.15 mmol, 3.7 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-isonicotinic acid ethyl ester | 0.538 g | C(C)OC(C1=C(C=NC=C1)NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2)=O | C24H20N2O5
